US06890947B2
4.71 g (18.5 mmol) of 5-bromo-4-methyl-1H-indole-2-carboxylic acid and 5.03 g (56.2 mmol) of cuprous cyanide were dissolved in 35 ml of quinoline and the solution heated at 230° C. for 90 minutes. The reaction mixture was then cooled down to ambient temperature and poured onto crashed ice. The pH was adjusted to pH 2-3 and the mixture subsequently extracted 3 times with ether. The combined organic phases were washed with water, dried over magnesium sulfate and evaporated to give a crude product which was purified by chromatography (silicagel, eluent: gradient of n-heptane/ethyl acetate) to yield 2.36 g of 4-methyl-1H-indole-5-carbonitrile as light brown solid.

reactant | 5-bromo-4-methyl-1H-indole-2-carboxylic acid | 18.5 mmol, 4.71 g | BrC=1C(=C2C=C(NC2=CC1)C(=O)O)C | C10H8BrNO2
reactant | quinoline | 35 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 4-methyl-1H-indole-5-carbonitrile | 2.36 g | CC1=C2C=CNC2=CC=C1C#N | C10H8N2
